US07691882B2
3-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a solution of 3-ethynyl-pyridin-2-ylamine (400 mg, 3.39 mmol) described in Manufacturing Example 1-2-3 in anhydrous tetrahydrofuran (20 mL) was added (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride (2.50 g, 9.03 mmol) under nitrogen atmosphere at room temperature. Triethylamine (1.89 mL, 13.6 mmol) was then added dropwise thereto, and stirred for 1.5 hours at room temperature. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3 then 1:2) to obtain the title compound (315 mg, 26%).

reactant | 3-ethynyl-pyridin-2-ylamine | 3.39 mmol, 400 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride | 9.03 mmol, 2.50 g | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | Triethylamine | 13.6 mmol, 1.89 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 315 mg, 26% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC=CC1)N | C21H18N4O2
